US08304419B2
Step B: 4-bromo-2-{[(2-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}ethyl)oxy]methyl}-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carbaldehyde
3N EtMgBr (0.086 mL of a 3N solution in diethyl ether, 0.26 mmol) was added to a solution of 4,5-dibromo-2-{[(2-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}ethyl)oxy]methyl}-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole (0.12 g, 0.21 mmol) in THF (2 mL). The reaction mixture was stirred for 3 h, DMF was added (0.5 mL, 4.9 mmol), and stirring was continued overnight. The solution was quenched by addition of sat'd NH4Cl and extracted with EtOAc and CH2Cl2. The organic phase was dried (Na2SO4), filtered, and purified by silica gel chromatography (0-30% EtOAc/hex) to afford the title compound (0.073 g, 69%) as a clear oil. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 9.77 (s, 1H), 5.84 (s, 2H), 5.27-5.47 (m, 1H), 4.60-4.77 (m, 1H), 3.74 (ddd, J=9.16, 4.85, 4.67 Hz, 2H), 3.47-3.62 (m, 4H), 0.83-0.95 (m, 11H), 0.04 (s, 6H), −0.06-0.01 (m, 9H).

reactant | EtMgBr | 3N | CC[Mg+].[Br-]
reactant | 4,5-dibromo-2-{[(2-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}ethyl)oxy]methyl}-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole | 0.21 mmol, 0.12 g | BrC=1N=C(N(C1Br)COCC[Si](C)(C)C)COCCO[Si](C)(C)C(C)(C)C | C18H36Br2N2O3Si2
reactant | DMF | CN(C)C=O | C3H7NO
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 4-bromo-2-{[(2-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}ethyl)oxy]methyl}-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carbaldehyde | 0.073 g, 69% | BrC=1N=C(N(C1C=O)COCC[Si](C)(C)C)COCCO[Si](C)(C)C(C)(C)C | C19H37BrN2O4Si2
